Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
___ - CT-guided drainage of a right psoas collection.
___ - Debridement of left ventricular vegetation.
___ - 1. Anterior incision and drainage. 2. Fusion L1-2. 
3. Anterior spacer x1. 4. Autograft, allograft, bone morphogenic 
protein. 5. Evacuation of pleural effusion.
___ - 1. Total laminectomy of T11, T12, L1, and L2. 2. 
Incision and drainage. 3. Debridement.

 
History of Present Illness:
Ms. ___ is a ___ year old woman with no significant past 
medical history who had onset of non-radiating low back pain 
after shoveling 2 weeks ago. She developed a low-grade fever 
last week and then developed bilateral anterior
thigh pain and weakness the day before presentation. She 
originally presented to ___ and was found to have a 
urinary tract infection and left lower lobe pneumonia. A chest 
CT demonstrated severe lumbar stenosis and a neurogenic bladder 
and she was transferred to ___ for further management. Given 
her severe lower extremity weakness on exam ___ association with 
urinary retention, an MRI of her entire spine was performed 
which was significant for a T11-L2 epidural abscess. She was 
taken to the OR emergently for T11-L2 laminectomy. The 
infectious disease service was consulted and were concerned for 
possible endocarditis. A transesophageal echocardiogram revealed 
a large vegetation on mitral valve. The cardiac surgery service 
was consulted for mitral valve replacement. 

 
Past Medical History:
Coronary Artery Disease
Depression
Endocarditis 
Epidural Abscess
Pneumonia 
Urinary Tract Infections, chronic

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admit PE:
HR: 77.  BP: 94/53.  RR: 16.  O2 sat: 100% (intubated FiO2 100%, 
PEEP 5)
Height: 65"   Weight:55 kg

General: intubated, opens eyes to voice 
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [unable to assess]
Neck:  Supple [x] Full ROM [unable to assess]
Chest: bibasilar crackles
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x] 
Extremities: Warm [x], well-perfused [x]  Edema [x]: 1+ 
bilateral pedal edema
Varicosities: minimal
Neuro: Grossly intact [unable to assess]
Pulses:
Femoral      Right: 1+  Left: 1+
DP           Right: 2+  Left: 2+ 
___           Right: 1+  Left: 2+
Radial       Right: A-line ___ place   Left: 2+

Carotid Bruit: none

Discharge PE:
HR: 95, SR.  BP: 100/64.  RR: 18.  O2 sat: 96% on RA
Height: 65"   Weight: 53.2kg (preop 55 kg)

General: thin, quiet, NAD
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] anicteric, MM dry, Dobhoff tube ___ Right nare 
[x]
Neck:  Supple [x] Full ROM [x]
Chest: clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Sternum: stable, incision healing well, no erythema, drainage or 
warmth[x] 
Abdomen: Soft [x] very mild distension BLQ [x] non-tender [x] 
normoactive bowel sounds [x]
Extremities: Warm [x], well-perfused [x]
LUE PICC: clean, dry, intact [x]  
Edema [x]: 1+ left foot/2+ right foot
Neuro: Grossly intact [unable to assess]
Pulses:
DP           Right: 2+   Left: 2+ 
___           Right: 2+   Left: 2+
Radial       Right: 2+   Left: 2+

 
Pertinent Results:
STUDIES:
Spine MR ___
1. L1-L2 intervertebral disc abscess with large anterior 
epidural abscess 
component measuring up to 13.7 x 0.7 cm spanning the T10 through 
L2 levels 
with involvement of the posterior epidural space at the level of 
L1-L2.  
Minimal signal abnormality abutting the L2 superior endplate may 
represent 
developing osteomyelitis. Epidural collection produces up to 
severe spinal 
canal narrowing at L1-L2, with mild-to-moderate narrowing at the 
other 
involved levels. 
2. Up to 9.0 x 1.8 x 2.2 cm rim enhancing prevertebral abscess 
spanning the L1 through L3-L4 levels. 
3. Equivocally rim enhancing right psoas fluid collection 
measuring up to 1.4 x 1.2 cm ___ maximal axial ___ 
spanning the L1 through L5 levels, likely representing 
additional abscess. 
4. Areas of heterogeneous signal abnormality within the 
bilateral lung bases with trace bilateral pleural effusions, 
better characterized on the same-day CT examination, likely 
refer reflecting infection. 
5. Wedge-shaped hypoenhancing focus of the visualized spleen, 
corresponding to  splenic infarct, better characterized on the 
concurrent CT examination. 
6. Lytic lesions ___ the T12 and L4 vertebral bodies as seen on 
the same-day CT examination correspond to hemangioma and focal 
fat, respectively. 
7. Other multilevel spinal degenerative changes, as described. 

Transthoracic Echocardiogram ___
The left atrium and right atrium are normal ___ cavity size. No 
atrial septal defect is seen by 2D or color Doppler. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thicknesses and cavity size are normal. There is mild 
global left ventricular hypokinesis with relative preservation 
of apical segments. Quantitative biplane LVEF = 45 %. There is 
no ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. No 
masses or vegetations are seen on the aortic valve. The mitral 
valve leaflets are structurally normal. No mass or vegetation is 
seen on the mitral valve. No mitral regurgitation is seen. The 
pulmonary artery systolic pressure could not be determined. 
There is a trivial/physiologic pericardial effusion. 

IMPRESSION: No valvular pathology or pathologic flow identified. 
Normal left ventricular cavity size with mild global hypokinesis 
___ a pattern most c/w a non-ischemic cardiomyopathy (e.g., 
tachycardia, toxin, metabolic, etc.).  

Transesophageal Echocardiogram ___
No mass/thrombus is seen ___ the left atrium or left atrial 
appendage. No thrombus is seen ___ the right atrial appendage 
Overall left ventricular systolic function is mildly depressed 
(LVEF= 45 %). Right ventricular chamber size and free wall 
motion are normal. The ascending, transverse and descending 
thoracic aorta are normal ___ diameter and free of 
atherosclerotic plaque to 40 cm from the incisors. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is a large vegetation on the 
mitral valve (3cm x 1.5 cm ___ it's largest dimension). No mitral 
valve abscess is definitively seen. The aortic, tricuspid and 
pulmonic valves are all free of vegetations. There is a very 
small pericardial effusion. 

IMPRESSION: Large mobile mass/vegetation attached to the 
posterior mitral valve annulus on the LV side. There is no 
involvement of the aortic root or coronary sinuses and no mitral 
valve regurgitation. Overall left ventricular function mildly 
depressed globally (LVEF 45%).  

Cardiac Catheterization ___
Dominance: Right
LMCA: without obstructive disease.
LAD: without obstructive disease. ___ Diagonal without 
obstructive disease.
LCX without obstructive disease. ___ Marginal without 
obstructive disease.
RCA: 50% narrowed mid, small vessel. ight PDA is small without 
obstructive disease.

___ CT w/o contrast ___
No acute intracranial process. Please note evaluation of 
aneurysm is limited due to lack of IV contrasts. 

Chest CT w/o contrast ___
Normal caliber noncalcified thoracic aorta. Small to moderate 
pericardial effusion, moderate left pleural effusion. Minimal 
right pleural effusion and tiny pneumothorax ___ the right 
hemithorax with a apical pleural drainage catheter. Multiple 
lung abscesses presumably septic emboli, some of which may have 
a hemorrhagic component. Large scale relaxation atelectasis left 
lower lobe. Probable pneumonia right middle and lower lobes. 
Reactive central adenopathy particularly ___ the left hilus. 

CTA ___ and Neck ___
1. No evidence of hemorrhage, large territorial infarct, or 
mass. 
2. No evidence of aneurysm. 
3. 2 mm infundibulum of the origin of the right posterior 
communicating 
artery. 
4. No flow-limiting stenosis, occlusion, or dissection of the 
intracranial and cervical vascular structures. 
5. Minimal atherosclerotic calcification ___ the left cavernous 
internal 
carotid artery and left proximal internal carotid artery without 
stenosis. 
6. Please see separate dictation performed on the same day for 
detailed 
evaluation of the chest. 

MR ___ ___
1. Sagittal diffusion-weighted sequences of the cervical spine 
is severely 
motion degraded and nondiagnostic below the C4 level. There is 
no evidence of cord infarct from the craniocervical junction to 
the C4 level. 
2. Sagittal and axial T1 postcontrast sequences are at least 
moderately motion degraded.  Within these confines: There is no 
evidence of abnormal T2/STIR hyperintense signal or enhancement 
of the cervical spine. 
3. There is STIR hyperintense marrow signal of the left C3-C4 
facet with mild facet effusion and surrounding enhancing soft 
tissue.  This is similar ___ appearance to prior examination of 
___, allowing for motion degradation on today's 
examination. This may represent degenerative facetitis, however, 
given the patient's history of septic emboli, close attention 
and clinical correlation is recommended to exclude septic joint. 

4. Moderate left and mild right pleural effusion and additional 
findings as described above. 

MR ___ ___
1. There multiple punctate foci of restricted diffusion 
bilaterally, more 
prominent on the right, consistent with acute/early subacute 
infarcts.  There is no intraparenchymal abscess, hemorrhage or 
cerebritis. 

Transesophageal Echocardiogram (intraoperative) ___
Pre-CPB:
No spontaneous echo contrast is seen ___ the left atrial 
appendage. Overall left ventricular systolic function is 
severely depressed (LVEF= ___ %). with mild global free wall 
hypokinesis. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. There is a probable vegetation on the 
ventricular side of the mitral valve. It is very mobile, 
measuring 1.7 x 2.6 cm. It seems attached to the chords of the 
posterior leaflet. It moves ___ the LVOT almost to the aortic 
leaflets. Trivial mitral regurgitation is seen. There is a small 
pericardial effusion. 

Post-CPB:
EF ___ on Levophed drip. Trivial MR, vegetation no longer 
visible. No pericardial effusion seen. Left pleural effusion 
drained. Aorta intact after decannulation.

Right Upper Quadrant Ultrasound ___
Minimal gallbladder sludge with no other biliary tract 
abnormalities.  Normal appearing liver. Small cystic area ___ the 
spleen likely residual of prior infarction. Trace ascites and 
left pleural effusion also noted. 
  
Multiple tiny pancreatic cysts scattered throughout the ___ and 
body 
suggestive of possible IPMN. Recommend follow-up with outpatient 
MRI when 
patient has recovered. 

CT Abdomen and Pelvis ___
1. Bilateral small hydropneumothoraces (there are bilateral 
chest tubes) and multifocal pneumonia within the visualized 
portions of the right middle lobe and both lower lobes including 
regions of developing cavitation ___ the left lower lobe. 
2. Multiple large splenic infarcts without presence of rim 
enhancing fluid 
collections to suggest abscess formation at these sites. 
3. Evolution of right psoas abscess measuring up to 2.1 cm ___ 
maximal 
thickness. 
4. Hypoattenuation within the distal pancreatic body may 
represent parenchymal edema and/or acute pancreatitis. 
5. The known infrarenal IVC thrombus appears larger compared to 
the CT dated ___, but remains nonocclusive. 
6. Distended urinary bladder despite presence of a Foley 
catheter.  This may be secondary to a clamped versus a 
malfunctioning catheter. 
7. Status post thoracolumbar laminectomies and interbody graft 
placement at L1-2 without evidence of complication. 

CT ___ ___
There stable small punctate early subacute infarcts, as seen on 
MRI ___. There is new trace subarachnoid hemorrhage 
overlying left frontal lobe. 

CT ___ ___
Stable trace subarachnoid hemorrhage overlying the frontal lobe. 
No parenchymal hemorrhage. Stable few punctate foci of early 
subacute infarcts. No new abnormalities. 

Lower Extremity Venous Ultrasound ___
No evidence of deep venous thrombosis ___ the right or left lower 
extremity 
veins. 

Cerebral Angiogram ___
No evidence of infectious aneurysm or other vascular lesion to 
explain the 
patient's hemorrhage. 

CT ___ and Neck ___
No evidence of mycotic aneurysm.

CT Chest ___
1. Interval development of cavitation of pre-existing lung 
abscess ___ the right middle and right lower lobe. Otherwise, 
overall unchanged appearance of multiple cavitary lung lesions. 
2. New small to moderate right pleural effusion since removal of 
the chest tube. Stable moderate left pleural effusion. 
3. Small amount of filling defect ___ the SVC, origin of the 
right subclavian vein and the right internal jugular vein, which 
may be nonocclusive thrombus versus valves.  If clinically 
indicated, ultrasound may be helpful. 

CT Abdomen and Pelvis ___
1. New small right pelvic hematoma adjacent to the iliac 
vessels. 
2. Stable splenic infarcts.  No rim enhancing fluid collection 
to suggest 
splenic abscess. 
3. Mild decrease ___ size of right psoas abscess. Pigtail 
catheter well 
positioned. 
4. Mild decrease ___ sizes ___ focal infrarenal IVC thrombus. 
5. Intra-abdominal and pelvic ascites unchanged. 
6. New edema ___ the rectum and sigmoid colon walls, likely 
related to third spacing, with differential including colitis. 
7. Diffuse anasarca. 

KUB ___: No evidence of intraperitoneal free air or  bowel 
obstruction.

PA/LAT CXR ___: 
Compared to most recent prior, there is improved aeration of the 
right lower lobe.  Multiple bilateral cavitary lung nodules were 
better seen on prior CT, and likely represent septic emboli.  
There is scarring of the right apex. Cardiomediastinal and hilar 
silhouettes are unchanged.  Stable cardiomegaly.  Unchanged 
bilateral pleural effusions, with associated atelectasis.  No 
pneumothorax.  Left-sided PICC is seen with the tip terminating 
___ the lower SVC.  NG tube is ___ place with tip terminating 
below the diaphragm, outside the field of view. 
  
IMPRESSION:    
1.  Unchanged bilateral pleural effusions. 
2.  Multiple bilateral cavitated lung nodules likely 
representing septic 
emboli were better seen on prior CT. 
3.  Improved aeration of the right lower lung. 

CT ABD/PELVIS w/IV CONTRAST ___:
COMPARISON:  CT of the abdomen and pelvis from ___.   
FINDINGS:    
LOWER CHEST: Atelectasis is again noted ___ the bilateral lobes, 
with interval decrease ___ size ___ cavitated lung lesions ___ the 
left lower lobe.  There are unchanged  bilateral small pleural 
effusions, left greater than right.  
ABDOMEN:   
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic or extrahepatic biliary dilatation.  The 
gallbladder is within normal limits. There is small volume 
ascites. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding. 
  
SPLEEN: Similar appearance of with the multiple splenic 
infarcts, with no 
evidence of splenic abscess. 
  
ADRENALS: The right and left adrenal glands are normal ___ size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  There is no evidence of focal renal lesions 
or hydronephrosis.  There is no perinephric abnormality. 
  
GASTROINTESTINAL: Enteric tube is again noted within the distal 
stomach.  
Small bowel loops demonstrate normal caliber, wall thickness, 
and enhancement throughout.  The colon and rectum are within 
normal limits. 
  
PELVIS: There is a Foley catheter within the bladder.  Gas  
noted within the bladder is secondary to instrumentation.  There 
has been a mild interval decrease ___ size ___ the moderate amount 
of  free fluid within the cul-de-sac along with enhancement of 
the peritoneal reflection. 
  
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease is noted. 
  
BONES: The patient is status post T12- L2 laminectomy and L1-L2 
fusion due to discitis.  Mild retrolisthesis grade 1 of L3 on L4 
is again noted.  
Hemangiomas are redemonstrated ___ T12 and L4 vertebral body.  
There are no 
enhancing fluid collection tracking from T12 to L2 vertebral 
body which is 
likely postsurgical. 
  
SOFT TISSUES: A percutaneous pigtail catheter is again noted 
within an abscess ___ the right psoas muscle, which has slightly 
decreased ___ size since prior study, measuring 1.7 x 1.3 cm ___ 
maximal dimension (2:3), compared to 2.6 x 2.1 cm previously. 
  
IMPRESSION:   
1. Percutaneous pigtail catheter is redemonstrated ___ a right 
psoas abscess which is slightly decreased ___ size compared to 
prior. 
2. Mild interval decrease ___ size ___ moderate amount of fluid 
within the cul de sac along with mild enhancement of the 
peritoneum with no organized 
collection noted. 
3. Multiple splenic infarcts are redemonstrated with no evidence 
of abscess. 
4. Limited evaluation of the lung bases shows mild interval 
decrease ___ size ___ cavitary lung lesions ___ the left lower lobe 
concerning for septic emboli. 
Labs:
Admit:
___ 06:15PM BLOOD WBC-22.9* RBC-2.96* Hgb-9.6* Hct-27.2* 
MCV-92 MCH-32.4* MCHC-35.3 RDW-13.0 RDWSD-43.3 Plt ___
___ 06:15PM BLOOD ___ PTT-29.1 ___
___ 06:15PM BLOOD Glucose-102* UreaN-21* Creat-0.7 Na-133 
K-3.5 Cl-98 HCO3-21* AnGap-18
___ 06:15PM BLOOD ALT-37 AST-34 CK(CPK)-162 AlkPhos-123* 
TotBili-0.7
___ 06:15PM BLOOD Lipase-16
___ 01:12PM BLOOD %HbA1c-5.7 eAG-117
___ 06:15PM BLOOD Albumin-1.8*
___ 01:18PM BLOOD CK-MB-3 cTropnT-0.04*
___ 09:03PM BLOOD CK-MB-4 cTropnT-0.04*
___ 12:57AM BLOOD CK-MB-5 cTropnT-0.05*
___ 12:15PM BLOOD cTropnT-0.20*

Discharge:
___ 03:58AM BLOOD WBC-10.5* RBC-2.39* Hgb-7.5* Hct-23.8* 
MCV-100* MCH-31.4 MCHC-31.5* RDW-19.2* RDWSD-69.5* Plt ___
___ 02:36AM BLOOD ___ PTT-26.9 ___
___ 03:58AM BLOOD Glucose-152* UreaN-17 Creat-0.6 Na-134 
K-4.4 Cl-97 HCO3-27 AnGap-14
___ 04:40AM BLOOD ALT-11 AST-19 LD(LDH)-275* AlkPhos-91 
Amylase-40 TotBili-0.4

MICRO:
___ UA:
___ 04:32AM URINE Color-Yellow Appear-Cloudy Sp ___
___ 04:32AM URINE Blood-MOD Nitrite-POS Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-LG
___ 04:32AM URINE RBC-41* WBC->182* Bacteri-MANY Yeast-NONE 
Epi-0
___ 04:32AM URINE Mucous-MANY
___ 04:32AM URINE
___: URINE CULTURE & SENSITIVITY: Pending/NGTD
 
 
___ 11:01 pm STOOL     CONSISTENCY: SOFT      Source: 
Stool. 
                            **FINAL REPORT ___
   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 

 
___ 9:42 am BLOOD CULTURE      Source: Venipuncture #1. 
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH.  
 
___ 9:43 am BLOOD CULTURE      Source: Line-PICC #2. 
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

Time Taken Not Noted     ___ Date/Time: ___ 4:58 pm
      ABSCESS   **FINAL REPORT ___
   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   FLUID CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 12:14 pm SWAB      LEFT VENTRICULAR SWAB. 
GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 


   FUNGAL CULTURE (Final ___: 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      Inappropriate specimen collection (swab) for Fungal Smear 
(___). 
   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 12:13 pm TISSUE      LEFT VENTRICULAR MASS. 
   GRAM STAIN (Final ___: 
      Reported to and read back by ___. ___ (___) @ 
510PM ON
      ___. 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 


   FUNGAL CULTURE (Final ___:    NO FUNGUS ISOLATED. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      NO FUNGAL ELEMENTS SEEN. 

 ___ 6:15 pm BLOOD CULTURE
                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPH AUREUS COAG +.    FINAL SENSITIVITIES. 
         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus, yeast or other 
fungi. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------<=0.25 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI ___ CLUSTERS. 
      Reported to and read back by ___ (___) ___ 
AT 1112. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI ___ CLUSTERS. 
 

 
Brief Hospital Course:
She was taken to the operating room on ___ and underwent 
debridement of left ventricular vegetation. Please see operative 
note for full details. She tolerated the procedure well and was 
transferred to the CVICU ___ stable condition for recovery and 
invasive monitoring. Due to the complexity of her 
hospitalization, the remainder of this summary will be divided 
by systems.

Neuro:
On the morning of ___ she was noted to be more confused by 
her nurse. Neurology was consulted and upon their evaluation 
there was no speech production, she was inconsistently following 
commands, she had left gaze preference, plegic left arm, 
decreased movement of the left leg compared to the right. 
However, over a period of 30 minutes, her exam greatly improved 
to the point where she was somewhat somnolent but was producing 
understandable speech, following commands consistently, had 
normal extraocular movements, improved weakness of the left arm 
with good antigravity effort, and improvement ___ the left leg as 
well. Given the rapid resolution of her symptoms it was thought 
to be small embolic strokes versus TIA. Spine and brain MRI was 
recommended to rule out spinal cord septic embolism. The studies 
were significant for small punctate ischemic infarcts, primarily 
right frontal cortex. No
evidence of hemorrhage, abscess, or parenchymal inflammation 
(cerebritis). CTA without evidence of mycotic aneurysm. 

Postoperatively she intermittently followed commands and 
remained intubated and sedated. Repeat brain imaging was 
significant for a trace subarachnoid hemorrhage overlying the 
frontal lobe. Neurosurgery was consulted and cerebral angiogram 
was recommended. The study revealed no evidence of infectious 
aneurysm or other vascular lesion to explain the hemorrhage. No 
further evaluation or intervention was recommended. She weaned 
from sedation and was awake and alert on ___. A ___ and 
neck CTA on ___ demonstrated no evidence of mycotic 
aneurysm. 

Resp:
She remained intubated until postoperative day ___ and has 
since weaned to room air.  Her most recent chest imaging shows 
stable bilateral pleural effusions and multiple bilateral 
cavitated lung nodules. 
 

Cardiac:
She was weaned from inotropic and vasopressor support. Beta 
blocker was initiated and she was diuresed toward her 
preoperative weight. She remained hemodynamically stable and was 
transferred to the telemetry floor for further recovery.  

GI:
A preoperative right upper quadrant ultrasound on ___ 
revealed normal liver, gallbladder sludge, splenic infarct, and 
pancreatic cysts. Tube feeds were initiated to maintain 
nutrition during prolonged intubation. She will need outpatient 
follow up with MRI imaging for management of pancreatic cysts.  
She has had loose stools with negative CDiff check, and these 
are felt to be due to tube feeds and magnesium supplementation.

Renal:
She developed hypernatremia which improved with Kphos ___ D5W.  
She is receiving free water flushes with her tube feeds.

Heme:
She was transfused blood products for acute blood loss anemia.

ID:
She presented with epidural abscess, splenic abscess, and psoas 
abscess. Cultures were positive for MSSA and she was started on 
Nafcillin which will continue until ___. Psoas abscess was 
managed with CT guided drainage of the collection. ACS continued 
to follow Mrs. ___ for her splenic abscess. CT of the 
abdomen and pelvis on ___ demonstrated multiple large 
wedge-shaped regions of 
hypoattenuation ___ the spleen, not appreciably changed compared 
to prior. There is no rim enhancement to suggest abscess 
formation.  Her foley catheter was replaced for urinary 
retention on ___ and she was empricially started on 7day 
course Ciprofloxacin for positive urinalysis (Culture & 
sensitivity pending).

Access:
Left subclavian PICC line was placed on ___. 
She is taking POs with supplemental nutrition via tube feeds. 

  
She was evaluated by the occupational and physical therapy 
services for assistance with strength and mobility. By the time 
of discharge on post-op days 22, 20 and 18 she was 
deconditioned, the wound was healing, and pain was controlled 
with oral analgesics. She was discharged to ___ ___ 
___ ___ good condition with appropriate follow up 
instructions.
 
Medications on Admission:
1. Cyclobenzaprine 10 mg PO TID:PRN prn 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO/PR Q4H:PRN pain or temperature >38.0 
 
2.  Aspirin 81 mg NG DAILY  
3.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation   
4.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days  
5.  Docusate Sodium 100 mg PO BID:PRN constipation  
6.  FLUoxetine 20 mg PO DAILY  
7.  Furosemide 20 mg PO BID Duration: 7 Days 
BID for 7 days, then decrease to daily and reevaluate for 
further decrease  
8.  Heparin 5000 UNIT SC BID  
9.  Magnesium Oxide 400 mg PO BID 
hold for loose stools  
10.  Metoprolol Tartrate 75 mg PO Q8H 
hold if SBP<95 or HR<60  
11.  Nafcillin 2 g IV Q4H 
last dose planned for ___  
12.  Pantoprazole 40 mg PO Q24H  
13.  Polyethylene Glycol 17 g PO DAILY:PRN constipation   
14.  Potassium Chloride 40 mEq PO BID  
15.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
MSSA Sepsis
Acute Blood Loss Anemia
Coronary Artery Disease 
Embolic Stroke vs. TIA
Endocarditis
Epidural Abscess
Hypernatremia
Pancreatic Cysts
Pneumonia 
Splenic Infarct
Depression
Urinary Tract Infections, chronic

 
Discharge Condition:
Alert and oriented x3 non-focal
Deconditioned
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Wear brace at all times when sitting up or OOB or ambulating
Edema- 1+ L foot/2+ R foot
PICC LUE - clean, dry, intact
Dobhoff tube ___ R nare

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then ___ the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

 
Followup Instructions:
___